US04843072
A mixture of 6-[4-(2-benzyloxycarbonylamino-2-methylpropylamino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone (0.50 g), 10% palladium-carbon (0.50 g) and methanol (40 ml) was stirred in a stream of hydrogen for 3 hours. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure to give 6-[4-(2-amino-2-methylpropyl amino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone(0.30 g).

reactant | 6-[4-(2-benzyloxycarbonylamino-2-methylpropylamino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 0.50 g | C(C1=CC=CC=C1)OC(=O)NC(CNC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)(C)C | C23H28N4O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 0.50 g | [C].[Pd]
solvent | methanol | 40 ml | CO | CH4O
product | 6-[4-(2-amino-2-methylpropyl amino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 0.30 g | NC(CNC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)(C)C | C15H22N4O
